US07932241B2
Adjustment of pH Value in Zoledronic Acid Formulations with Different Bases
533.1 mg of zoledronic acid monohydrate (equivalent to 500 mg of zoledronic acid) and 480.0 g of mannitol are added to 7520 g of water for injection and stirred until a clear solution with a total weight of 8000 g is obtained. Each 800 g of this solution (equivalent to 50 mg of zoledronic acid) are titrated with

reactant | zoledronic acid monohydrate | 533.1 mg | C1=CN(C=N1)CC(O)(P(=O)(O)O)P(=O)(O)O.O
reactant | mannitol | 480.0 g | C([C@@H](O)[C@@H](O)[C@H](O)[C@H](O)CO)O | C6H14O6
solvent | water | 7520 g | O | H2O
product | Zoledronic Acid | C1=CN(C=N1)CC(O)(P(=O)(O)O)P(=O)(O)O | C5H10N2O7P2
